US07022851B2
1-(2-Nitro-4-trifluoromethyl-benzenesulfonyl)-4-[(thymin-1-yl)-acetyl]-piperazin-2-one
The title compound (980 mg, 94%) was synthesized by reaction of 1-(2-nitro-4-trifluoromethyl-benzenesulfonyl)-piperazin-2-one HCl salt (780 mg, 2 mmol) with (thymin-1-yl)-acetic acid (369 mg, 2 mmol) as per the procedure of example 64.

reactant | 1-(2-nitro-4-trifluoromethyl-benzenesulfonyl)-piperazin-2-one HCl salt | 2 mmol, 780 mg | Cl.[N+](=O)([O-])C1=C(C=CC(=C1)C(F)(F)F)S(=O)(=O)N1C(CNCC1)=O
reactant | (thymin-1-yl)-acetic acid | 2 mmol, 369 mg | N1(C(=O)NC(=O)C(C)=C1)CC(=O)O | C7H8N2O4
product | 1-(2-Nitro-4-trifluoromethyl-benzenesulfonyl)-4-[(thymin-1-yl)-acetyl]-piperazin-2-one | 980 mg, 94% | [N+](=O)([O-])C1=C(C=CC(=C1)C(F)(F)F)S(=O)(=O)N1C(CN(CC1)C(CN1C(=O)NC(=O)C(C)=C1)=O)=O | C18H16F3N5O8S
